US09108977B2
To a solution of 22.5 g of 6-chloro-1H-3-benzazepine-2,4(3H,5H)-dione in 200 ml of THF were added dropwise 38 ml of a 10 M borane-dimethyl sulfide complex at 0° C. for 20 minutes, followed by stirring for 2.5 hours. The reaction mixture was heated and refluxed, and further stirred. To the reaction mixture was added dropwise 30 ml of MeOH under ice-cooling, followed by stirring, and then 30 ml of 4 M hydrochloric acid was added dropwise thereto, followed by heating and refluxing for 1 hour after generation of bubbles substantially settled. The mixture was alkalified by the addition of aqueous ammonia and a 1 M aqueous sodium hydroxide solution, followed by extraction with chloroform. The organic layer was dried over anhydrous sodium sulfate and then filtered. The filtrate was concentrated under reduced pressure, the residue was dissolved in EtOH, and activated carbon was added thereto, followed by heating and refluxing, and then filtering on amino silica gel, and the filtrate was concentrated under reduced pressure. To a solution of 18.7 g of the resulting residue in 180 ml of dichloromethane was added 17 ml of pyridine, followed by ice-cooling, and 13 ml of ethyl chlorocarbonate was added dropwise thereto, followed by stirring for 1.5 hours. The reaction mixture was concentrated under reduced pressure, the residue was diluted with EtOAc, then washed with 1 M hydrochloric acid and water, dried over anhydrous sodium sulfate, and then filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 9.653 g of ethyl 6-chloro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate as a reddish brown oily substance.

reactant | 6-chloro-1H-3-benzazepine-2,4(3H,5H)-dione | 22.5 g | ClC1=CC=CC=2CC(NC(CC21)=O)=O | C10H8ClNO2
reactant | MeOH | 30 ml | CO | CH4O
reactant | hydrochloric acid | 4 M, 30 ml | Cl | ClH
reactant | ammonia | N | H3N
reactant | THF | 200 ml | C1CCOC1 | C4H8O
product | ethyl 6-chloro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 9.653 g | ClC1=CC=CC=2CCN(CCC21)C(=O)OCC | C13H16ClNO2
